US07514473B2
(b) 3-(4-Bromo-3-hydroxy-phenyl)-propionic acid ethyl ester
To a −10° C. solution of 3-(3-hydroxy-phenyl)-propionic acid ethyl ester (2.0 g, 10.31 mmol) in chloroform (0.2 M, 51 mL) was added N-bromosuccinimide (1.93 g, 10.83 mmol). After stirring at RT overnight, the solution was concentrated in vacuo and purified by flash column chromatography (SiO2, 5% to 15% ethyl acetate/hexanes) to give the product as a colorless oil (0.45 g, 16%).

reactant | 3-(3-hydroxy-phenyl)-propionic acid ethyl ester | 10.31 mmol, 2.0 g | C(C)OC(CCC1=CC(=CC=C1)O)=O | C11H14O3
reactant | N-bromosuccinimide | 10.83 mmol, 1.93 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 0.2 M, 51 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Bromo-3-hydroxy-phenyl)-propionic acid ethyl ester | 0.45 g, 16% | C(C)OC(CCC1=CC(=C(C=C1)Br)O)=O | C11H13BrO3
